US06555552B2
(1R*,2R*,5S*)-2-amino-8-benzyl-1-phenyl-8-azabicyclo[3.2.1]octane
Lithium (175 mg, 25 mmol) was added to a solution of naphthalene (3.2 g, 25 mmol) in tetrahydrofuran (25 mL), and the mixture sonicated for 2 hours. The green solution formed was then slowly added to a solution of (1R*,2R*,5S*,6R*)-2-amino-8-benzyl-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]octane (Description 8; 2.0 g, 4.6 mmol) in tetrahydrofuran (50 mL), already cooled to −78° C. The mixture was stirred at −78° C. for 1 hour, then quenched with aqueous saturated ammonium chloride solution (50mL). After warming to ambient temperature, the mixture was extracted with ethyl acetate (2×100 mL) and the extracts dried (MgSO4). Concentration in vacuo yielded a solid, which was purified by silica chromatography to give the title compound as a gum (900 mg, 3.1 mmol).

reactant | Lithium | 25 mmol, 175 mg | [Li] | Li
reactant | naphthalene | 25 mmol, 3.2 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | (1R*,2R*,5S*,6R*)-2-amino-8-benzyl-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]octane | 4.6 mmol, 2.0 g | N[C@H]1[C@@]2(C[C@H]([C@H](CC1)N2CC2=CC=CC=C2)S(=O)(=O)C2=CC=CC=C2)C2=CC=CC=C2 | C26H28N2O2S
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (1R*,2R*,5S*)-2-amino-8-benzyl-1-phenyl-8-azabicyclo[3.2.1]octane | 3.1 mmol, 900 mg | N[C@H]1[C@@]2(CC[C@H](CC1)N2CC2=CC=CC=C2)C2=CC=CC=C2 | C20H24N2
